US05321026
Potassium carbonate (2.1 g) and sodium iodide (0.1 g) are added to a solution of N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (2.16 g), and 2-bromoacetophenone (2.5 g) in acetonitrile (25 cc), and the mixture is brought to reflux with stirring for 4 hours. After cooling, the reaction mixture is filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is purified by chromatography on a column (height: 25 cm; diameter: 3.6 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting successively with a mixture (3 liters) of methylene chloride and methanol (95:5 by volume) and then with a mixture (2 liters) of methylene chloride and methanol (90:10 by volume) and collecting 75-cc fractions. Fractions 39 to 66 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The yellow meringue-like residue (0.5 g) is taken up with stirring with isopropyl ether (40 cc) for 1 hour at a temperature in the region of 20° C., drained, washed with isopropyl ether (2×5 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. 1-Benzoylmethyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium bromide, L series (0.33 g), is thereby obtained in the form of a yellow powder, m.p. about 190° C.

reactant | Potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3OS
reactant | 2-bromoacetophenone | 2.5 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 25 cc | C(C)#N | C2H3N
product | 1-Benzoylmethyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium bromide | [Br-].C(C1=CC=CC=C1)(=O)C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | InChI=1S/C31H35N3O2S.BrH/c1-3-17-32-31(36)25-15-16-30-27(20-25)33(26-13-7-8-14-29(26)37-30)23(2)21-34(18-9-10-19-34)22-28(35)24-11-5-4-6-12-24;/h4-8,11-16,20,23H,3,9-10,17-19,21-22H2,1-2H3;1H
